US04698352
In the same manner as in Example 4, methyl 1-(4-fluorophenyl)-6-methyl-4-oxo-1,4-dihydronicotinate (m.p. 190°-195° C.) was prepared from methyl 3-oxo-4-hexenoate and 4-flouoroaniline, and 0.7 g of this ester was mixed with 0.32 g of nicotinaldehyde and 0.58 g of acetic anhydride, and they were refluxed for 5 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, and 20 ml of water was added thereto, after which the mixture was successively extracted with three 40-ml portions of chloroform. The chloroform layer was washed with 50 ml of a saturated aqueous solution of sodium chloride and dried with anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform) to obtain 0.496 g of methyl 1-(4-fluorophenyl)-6-[2-(pyridin-3-yl)ethenyl]-4-oxo-1,4-dihydronicotinate having a melting point of 201°-204° C.

reactant | methyl 1-(4-fluorophenyl)-6-methyl-4-oxo-1,4-dihydronicotinate | FC1=CC=C(C=C1)N1C=C(C(=O)OC)C(C=C1C)=O | C14H12FNO3
reactant | methyl 3-oxo-4-hexenoate | O=C(CC(=O)OC)C=CC | C7H10O3
reactant | nicotinaldehyde | 0.32 g | C(C1=CN=CC=C1)=O | C6H5NO
reactant | acetic anhydride | 0.58 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 20 ml | O | H2O
product | methyl 1-(4-fluorophenyl)-6-[2-(pyridin-3-yl)ethenyl]-4-oxo-1,4-dihydronicotinate | 0.496 g | FC1=CC=C(C=C1)N1C=C(C(=O)OC)C(C=C1C=CC=1C=NC=CC1)=O | C20H15FN2O3
